US06420555B1
Preparation 7: 1-Methylsulfonyl-3-(3-chlorophenyl)-5-(4-chlorobenzoyl)indole
A solution of 1-methylsulfonyl-3-(3-chlorophenyl)-5-(4-chlorobenzoyl)indoline (350 mg) and 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (356 mg) in dioxane (6 mL) was refluxed under N2 for about 6 hours and then heated at about 95° C. overnight. The solvent was removed. The residue was purified by column chromatography on silica, eluting with EtOAc/hexane, 1:4. The title compound was obtained as a solid. MS(ES): 443.2, calc. Mw=443.4. Rf=0.38, silica, EtOAc/hexane, 1:2. 195 mg, yield: 56%.

reactant | 1-methylsulfonyl-3-(3-chlorophenyl)-5-(4-chlorobenzoyl)indoline | 350 mg | CS(=O)(=O)N1CC(C2=CC(=CC=C12)C(C1=CC=C(C=C1)Cl)=O)C1=CC(=CC=C1)Cl | C22H17Cl2NO3S
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 356 mg | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
product | 1-Methylsulfonyl-3-(3-chlorophenyl)-5-(4-chlorobenzoyl)indole | yield: 56% | CS(=O)(=O)N1C=C(C2=CC(=CC=C12)C(C1=CC=C(C=C1)Cl)=O)C1=CC(=CC=C1)Cl | C22H15Cl2NO3S
